US07238724B2
4-Methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine
To a stirred solution of (4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester (0.06 g, 0.185 mmol ) in isopropanol (1.8 mL) at room temperature was added ammonium formate (0.047 g, 0.75 mmol) and 5 mg of 10% Pd/C under nitrogen. The reaction mixture was heated under microwave conditions at 150° C. for 30 minutes, cooled, filtered through Celite and concentrated under reduced pressure to provide the titled compound. MS (CI) m/z 192 (M+1).

reactant | (4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester | 0.185 mmol, 0.06 g | C(C1=CC=CC=C1)OC(NC1(CCN(CC1)C1=NC=CC=C1)C)=O | C19H23N3O2
reactant | ammonium formate | 0.75 mmol, 0.047 g | C(=O)[O-].[NH4+]
solvent | isopropanol | 1.8 mL | C(C)(C)O | C3H8O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 4-Methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-ylamine | CC1(CCN(CC1)C1=NC=CC=C1)N | C11H17N3
